US05098900
4-Chloro-5-(3-n-propoxy-4-methoxybenzylamino)-2-i-propyl-3(2H)pyridazinone (Compound No. 106)
A mixture comprising 1.34 g of 3-n-propoxy-4-methoxybenzylamine hydrochloride, 0.4 g of 4,5-dichloro-2-i-propyl-3(2H)pyridazinone, 1.08 g of potassium carbonate, 6 ml of 1,4-dioxane and 18 ml of water was refluxed under stirring for 8 hours. The solvent was distilled off under reduced pressure, and water was added to the the residue thereby obtained, and then the mixture was extracted with ethyl acetate. The extract was washed successively with diluted hydrochloric acid, water and a saturated sodium chloride aqueous solution, and dried over sodium sulfate, and then the solvent was distilled off. The product was crystallized from ethyl acetate-diethyl ether-n-hexane to obtain 230 mg of the above identified compound having a melting point of from 120° to 122° as colorless crystals.

reactant | 3-n-propoxy-4-methoxybenzylamine hydrochloride | 1.34 g | Cl.C(CC)OC=1C=C(CN)C=CC1OC
reactant | 4,5-dichloro-2-i-propyl-3(2H)pyridazinone | 0.4 g | ClC=1C(N(N=CC1Cl)C(C)C)=O | C7H8Cl2N2O
reactant | potassium carbonate | 1.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | water | 18 ml | O | H2O
product | 4-Chloro-5-(3-n-propoxy-4-methoxybenzylamino)-2-i-propyl-3(2H)pyridazinone | ClC=1C(N(N=CC1NCC1=CC(=C(C=C1)OC)OCCC)C(C)C)=O | C18H24ClN3O3
